US07262185B2
Under oxygen atmosphere, a mixed solution of 5-chloro-2-(α-cyano-4-fluorobenzyl)pyridine (16.14 g) and potassium carbonate (10.85 g) in DMSO-water (330-66 ml) was stirred at room temperature for 3 days. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and the obtained residue was separated and purified by column chromatography (ethyl acetate:hexane 1:4), to give 5-chloro-2-(4-fluorobenzoyl)pyridine (14.37 g) as colorless crystals.

reactant | 5-chloro-2-(α-cyano-4-fluorobenzyl)pyridine | 16.14 g | ClC=1C=CC(=NC1)C(C1=CC=C(C=C1)F)C#N | C13H8ClFN2
reactant | potassium carbonate | 10.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMSO water | 330-66 ml | CS(=O)C.O
product | 5-chloro-2-(4-fluorobenzoyl)pyridine | 14.37 g | ClC=1C=CC(=NC1)C(C1=CC=C(C=C1)F)=O | C12H7ClFNO
